US09023978B2
Synthesis of G 2-(6-p-pyridyl-phenyl)-7-iodo-9,9-dioctylfluorene
1.5 ml of an 1.0 M ICl solution in MeOH was slowly added to a solution of 500 mg (0.813 mmol) of 2-(6-p-pyridyl-phenyl)-7-trimethylsilyl-9,9-dioctylfluorene in 5 mL of dichloromethane. The resulting darkred solution was stirred for 2 h at room temperature after which the reaction mixture was quenched with a large excess of a Na2S2O3 in water. The mixture was extracted with water, and the organic fraction was dried using MgSO4 and the solvents were removed under reduced pressure. The product was purified using flash column chromatography (dichloromethane: Rf: 0.36). 450 mg (85%) product was obtained as a highly blue fluorescent, colourless solid material. 1H NMR (250 MHz, CDCl3): δ=8.73 (d, 3J=4.7 Hz, 1H; CH—N), 8.12 (d, 3J=8.5 Hz, 2H; CH—C—C(CH)—N), 7.80-7.73 (mp, 4H, ArH), 7.68 (s, 2H, ArH), 7.65 (d, 3J=5.0 Hz, 2H; CH—CH—N), 7.60 (s, 2H; ArH), 7.48 (d, 1H; 3J=8.4 Hz; ArH), 2.05-1.94 (mp, 4H; CH2—C), 1.05-1.25 (mp, 20H, CH2), 0.81 (t, 3J=6.6 Hz, 6H; CH3), 0.70 (br m, 4H, CH2). 13C{1H} NMR (500 MHz, CDCl3): δ=157.0 (CN), 153.4, 150.9 (C—C—CH2), 149.8 (CH—N), 142.0, 140.4, 140.0, 139.6, 138.2 (ArC), 136.8 (CH—CH—CH—N), 135.9, 132.1 (C—CI), 127.5, 127.3, 126.1, 122.1, 121.5, 121.3, 120.4, 120.1 (CH), 92.6 (CI), 55.5 (C—CH2), 40.2 (C—CH2), 31.7, 29.9, 29.2, 29.1 (CH2), 23.7 (C—CH2—CH2), 22.6 (CH3—CH2), 14.1 (CH3). Exact Mass (IE) m/z: 669.2825 [M]+ (calcd. 669.2832) fractions: 543.6 (m; [M-I]+), 318.4 (m; [M-(C8H17)—I]+). C40H48IN: calcd. C, 71.74; H, 7.22; N, 2.09. found C, 72.34; H, 7.20; N, 2.12.

reactant | ICl | 1.0 M | ICl | ClI
reactant | 2-(6-p-pyridyl-phenyl)-7-trimethylsilyl-9,9-dioctylfluorene | 0.813 mmol, 500 mg | N1=CC=C(C=C1)C1=CC=CC=C1C1=CC=2C(C3=CC(=CC=C3C2C=C1)[Si](C)(C)C)(CCCCCCCC)CCCCCCCC | C43H57NSi
solvent | MeOH | CO | CH4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(6-p-pyridyl-phenyl)-7-iodo-9,9-dioctylfluorene | 450 mg, 85% | N1=CC=C(C=C1)C1=CC=CC=C1C1=CC=2C(C3=CC(=CC=C3C2C=C1)I)(CCCCCCCC)CCCCCCCC | C40H48IN
